2134-12-06 06:51:00 Physician Resident Progress Note
Chief Complaint:
   vomiting
   24 Hour Events:
 MULTI LUMEN - START [**2134-12-5**] 11:30 AM
   slight hematoma at insertion site...outlined dsg in pen
 ARTERIAL LINE - START [**2134-12-5**] 12:54 PM
   - transferred from the floor, intubated, central line/aline placed for
   hypotension management.
   - Surgery consulted and felt there was no evidence of obstruction
   - Vent was weaned to CPAP
   - Placed on levophed and weaned over the day.  On 0.04 @MN.  Recieved
   ~3L fluid for low UOP. Off Levophed since 0300 [**12-6**]
   - Maintenance fluids changed from NS
 LR
 d5 1/2ns given Na 148
   - Sputum culture with GPR, GRC pairs, budding yeast with pseudohyphe
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-12-5**] 12:30 PM
   Metronidazole - [**2134-12-6**] 12:29 AM
   Infusions:
   Fentanyl - 37.5 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-12-5**] 08:00 AM
   Fentanyl - [**2134-12-5**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2134-12-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nonverbal. Denies pain by shaking head.
   Flowsheet Data as of  [**2134-12-6**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 80 (67 - 90) bpm
   BP: 118/69(88) {76/46(59) - 146/78(106)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 56.5 kg
    CVP: 12 (5 - 14)mmHg
   Mixed Venous O2% Sat: 90 - 90
   Total In:
                                                                  7,064 mL
                                                                    905 mL
   PO:
   TF:
   IVF:
                                                                  7,064 mL
                                                                    905 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    225 mL
   Urine:
                                                                  1,475 mL
                                                                    225 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  4,989 mL
                                                                    680 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 532 (406 - 576) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 11 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/56/96.[**Numeric Identifier 274**]/30/2
   Ve: 5.7 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General: Intubated, heavily sedated, does not open eyes to voice
   HEENT: PERRL, sclera anicteric, MM moist
   Neck: no bruits
   CV: RRR, s1 + s2, no murmurs, rubs, gallops
   Resp: Clear to auscultation anteriorly and laterally, previously
   decreased breath sounds on left base
   GI: soft, non-tender, non-distended, hypoactive bowel sounds, no
   organomegaly appreciated
   GU: foley draining clear yellow urine
   Ext: WWP, 2+ pulses, no clubbing, cyanosis or edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   9.1 g/dL
   91 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   18 mg/dL
   114 mEq/L
   148 mEq/L
   27.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2134-12-5**]  08:34 AM
                            [**2134-12-5**]  10:50 AM
                            [**2134-12-5**]  04:43 PM
                            [**2134-12-5**]  10:02 PM
                             [**2134-12-6**]  04:44 AM
                             [**2134-12-6**]  05:11 AM
   WBC
   6.9
   Hct
   27.2
   Plt
   177
   Cr
   0.9
   0.9
   0.7
   TCO2
   34
   33
   32
   Glucose
   120
   97
   91
   Other labs: PT / PTT / INR:15.1/46.2/1.3, Lactic Acid:0.8 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Impression: Mrs. [**Known lastname **] is a 69 year old female with grade III
   infiltrating ductal carcinoma of the right breast, hypertension and
   obstructive sleep apnea who presented to the emergency room with
   nausea, vomiting and abdominal pain now transferred to the [**Hospital Unit Name 10**] for
   hypoxic respiratory failure in the setting of aspiration and witnessed
   aspiration during intubation.
   .
   Hypoxic Respiratory Failure: Patient with respiratory failure in the
   setting of nausea, vomiting, leukocytosis and likely aspiration
   pneumonia on CXR.  Hypoxia despite non-rebreather on the floor.
   Patient required intubation and is now satting well on the ventilator.
   Etiology of respiratory failure is unclear and likely multifactorial
   realted to her pneumonia, aspiration and possibly mucous plugging
   acutely.  Patient has known large hiatal hernia that may be her
   etiology of aspiration.
   - wean O2 as tolerated
   - levofloxacin and flagyl for aspiration pneumonia
   - NPO, OGT to suction for now
   - maximize metabolic abnormalities to improve metabolic alkalosis and
   hypokalemia
   - Wean vent and extubate if RSBI less than 100
   .
   Hypotension: Transient in the setting of initiating sedation with
   likely vasodilatory effects.  Now improved with normal saline and
   transient peripheral dopamine.  Was on levophed which was turned off
   0300 [**12-6**]
   - NS fluid boluses for UOP < 50 cc/hr, MAP < 65
   - holding all blood antihypertensives
   .
   Nausea/Vomiting: Patient with known large hiatal hernia.  Unclear
   etiology of these symptoms.  Differential diagnosis includes viral
   syndrome, gastric outlet obstruction, or nausea related to primary
   pulmonary process.  KUB this morning with no evidence of free air,
   dilated bowel loops.  Contrast seen in the colon from prior CT scan.
   - OGT in place to suction
   - Once extubated will hold off on on NG tube unless clinically
   indicated
   - consider gastroenterology consult
   .
   Metabolic Alkalosis:  Likely secondary to vomiting and subsequent
   dehydration.
   - as above, received 2 L NS on arrival
   .
   Leukocytosis:  Likely secondary to aspiration pneumonia vs.
   pneumonitis. Blood cultures from admission negative.
   - repeat blood, urine and sputum cultures
   - levofloxacin and flagyl for aspiration pneumonia
   .
   Hypokalemia:  Likely secondary to vomiting but per notes concern that
   may be chronic.
   - IV repletion throughout the day
   .
   Hypertension: Transient hypotensive in the setting of intubation.
   - holding all antihypertensives
   .
   Coronary Artery Disease: No echocardiograms in our system.  Has q waves
   inferiorly.  No symptoms of angina, PND or orthopnea on admission H+P.
   Cardiac enzymes negative.
   - holding aspirin given guaiac positive emesis and NPO
   - holding statin
   .
   Breast cancer: Currently in remission.
   - holding arimidex while NPO
   .
   Depression:
   - holding sertraline, wellbutrin and ativan while ventilated
   .
   Hypothyroidism:
   - IV levothyroxine
   .
   FEN: NPO, NGT, IVF D5
 ns, monitor electrolytes closely, NS for UOP <
   50, MAP < 65
   .
   Access:  LEFT subclavian line, 1 18 g, 2 20 g peripherals
   .
   Prophylaxis: Heparin SC, IV PPI
   .
   Code: Full (discussed with patient, HCP)
   .
   Dispo: ICU care for now
   .
   Communication: w/ patient and daughter [**Name (NI) 155**] [**Name (NI) **] (HCP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-12-5**] 06:52 AM
   Multi Lumen - [**2134-12-5**] 11:30 AM
   Arterial Line - [**2134-12-5**] 12:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-12-06 11:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 year old female who presented with nausea/vomiting/hiatal hernia and
   ultimately respiratory failure secondary to presumed aspiration
   24 Hour Events:
 MULTI LUMEN - START [**2134-12-5**] 11:30 AM
   slight hematoma at insertion site...outlined dsg in pen
 ARTERIAL LINE - START [**2134-12-5**] 12:54 PM
   - Overnight, did have some hypotension requiring levophed but now off
   again.  Respiratory status improved
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-12-5**] 12:30 PM
   Metronidazole - [**2134-12-6**] 07:34 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2134-12-5**] 11:30 AM
   Heparin Sodium (Prophylaxis) - [**2134-12-6**] 12:00 AM
   Pantoprazole (Protonix) - [**2134-12-6**] 07:43 AM
   Other medications:
   Med List reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, Nausea
   Flowsheet Data as of  [**2134-12-6**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 82 (67 - 88) bpm
   BP: 148/77(105) {76/46(59) - 148/78(106)} mmHg
   RR: 19 (11 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 56.5 kg
   CVP: 12 (5 - 14)mmHg
   Mixed Venous O2% Sat: 90 - 90
   Total In:
                                                                  7,064 mL
                                                                  1,760 mL
   PO:
   TF:
   IVF:
                                                                  7,064 mL
                                                                  1,760 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    615 mL
   Urine:
                                                                  1,475 mL
                                                                    315 mL
   NG:
                                                                    600 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  4,989 mL
                                                                  1,145 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 492 (406 - 576) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.34/56/96.[**Numeric Identifier 274**]/30/2
   Ve: 4.7 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Awake, alert
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender,
   Extremities: warm, good pulses
   Neurologic: no focal neuro findings
   Labs / Radiology
   9.1 g/dL
   177 K/uL
   91 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.1 mEq/L
   18 mg/dL
   114 mEq/L
   148 mEq/L
   27.2 %
   6.9 K/uL
        [image002.jpg]
                            [**2134-12-5**]  08:34 AM
                            [**2134-12-5**]  10:50 AM
                            [**2134-12-5**]  04:43 PM
                            [**2134-12-5**]  10:02 PM
                             [**2134-12-6**]  04:44 AM
                             [**2134-12-6**]  05:11 AM
   WBC
   6.9
   Hct
   27.2
   Plt
   177
   Cr
   0.9
   0.9
   0.7
   TCO2
   34
   33
   32
   Glucose
   120
   97
   91
   Other labs: PT / PTT / INR:15.1/46.2/1.3, Lactic Acid:0.8 mmol/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 NAUSEA / VOMITING
   1) Respiratory Failure likely secondary to aspiration pneumonia
   - Will plan to extubate
   - Continue antibiotic coverage
   2) Hypotension:
   - hold anti-hypertensives and monitor
   3)       Hiatal hernia: will re-evaluate hiatal hernia/nausea/vomiting
   after extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-12-5**] 06:52 AM
   Multi Lumen - [**2134-12-5**] 11:30 AM
   Arterial Line - [**2134-12-5**] 12:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 (patient is critically ill)

2134-12-07 07:41:00 Physician Attending Progress Note
Chief Complaint: N/V
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2134-12-6**] 12:17 PM
   - extubated 1400
   - 7.38/46/82/28 > post extb 7.38/51/101/31
   - Advanced to clears but witnessed aspiration event --> made npo and
   Swallow consult requested
   - plan to d/c central and a line in AM
   - Off pressors
   - Cx data negative thus far
   - noted LEFT hand swelling 2200; good pulses and nontender
   - mildly hypoxic to high 80s with Cpap 5 o/n. some crackles on exam.
   Put pt back on 4 l NC and d/cd maint. fluid.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-12-6**] 11:43 AM
   Metronidazole - [**2134-12-6**] 11:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-12-6**] 07:43 AM
   Heparin Sodium (Prophylaxis) - [**2134-12-6**] 11:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-7**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 72 (71 - 88) bpm
   BP: 162/79(110) {107/60(78) - 163/80(110)} mmHg
   RR: 17 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 56.5 kg
             Total In:
                                                                  3,572 mL
                                                                    203 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,512 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  1,173 mL
                                                                    530 mL
   Urine:
                                                                    873 mL
                                                                    530 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,399 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/46/81.[**Numeric Identifier 8**]/28/0
   PaO2 / FiO2: 164
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   152 K/uL
   101 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   12 mg/dL
   112 mEq/L
   147 mEq/L
   25.7 %
   6.5 K/uL
        [image002.jpg]
                            [**2134-12-5**]  08:34 AM
                            [**2134-12-5**]  10:50 AM
                            [**2134-12-5**]  04:43 PM
                            [**2134-12-5**]  10:02 PM
                             [**2134-12-6**]  04:44 AM
                             [**2134-12-6**]  05:11 AM
                             [**2134-12-6**]  11:44 AM
                             [**2134-12-6**]  12:00 PM
                             [**2134-12-6**]  06:36 PM
                             [**2134-12-7**]  04:54 AM
   WBC
   6.9
   6.2
   6.5
   Hct
   27.2
   25.0
   25.7
   Plt
   177
   165
   152
   Cr
   0.9
   0.9
   0.7
   0.6
   TCO2
   34
   33
   32
   31
   28
   Glucose
   120
   97
   91
   101
   Other labs: PT / PTT / INR:15.4/53.7/1.4, Differential-Neuts:82.2 %,
   Lymph:9.4 %, Mono:5.5 %, Eos:2.6 %, Lactic Acid:0.5 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-12-5**] 06:52 AM
   Multi Lumen - [**2134-12-5**] 11:30 AM
   Arterial Line - [**2134-12-5**] 12:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2134-12-07 07:45:00 Physician Resident Progress Note
Chief Complaint: N/V
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2134-12-6**] 12:17 PM
   - extubated 1400
   - 7.38/46/82/28 > post extb 7.38/51/101/31
   - Advanced to clears but witnessed aspiration event --> made npo and
   Swallow consult requested
   - plan to d/c central and a line in AM
   - Off pressors
   - Cx data negative thus far
   - noted LEFT hand swelling 2200; good pulses and nontender
   - mildly hypoxic to high 80s with Cpap 5 o/n. some crackles on exam.
   Put pt back on 4 l NC and d/cd maint. fluid.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-12-6**] 11:43 AM
   Metronidazole - [**2134-12-6**] 11:51 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-12-6**] 11:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-7**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 72 (71 - 88) bpm
   BP: 162/79(110) {107/60(78) - 163/80(110)} mmHg
   RR: 17 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 56.5 kg
             Total In:
                                                                  3,572 mL
                                                                    205 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,512 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  1,173 mL
                                                                    530 mL
   Urine:
                                                                    873 mL
                                                                    530 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,399 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/46/81.[**Numeric Identifier 8**]/28/0
   PaO2 / FiO2: 164
   Physical Examination
   General: a and o x3, nad
   HEENT: PERRL, sclera anicteric, MM moist
   Neck: no bruits
   CV: RRR, s1 + s2, no murmurs, rubs, gallops
   Resp: Clear to auscultation anteriorly and laterally
   GI: soft, non-tender, non-distended, hypoactive bowel sounds, no
   organomegaly appreciated
   GU: foley draining clear yellow urine
   Ext: WWP, 2+ pulses, no clubbing, cyanosis; LEFT hand edematous to
   wrist
   Labs / Radiology
   152 K/uL
   8.7 g/dL
   101 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   12 mg/dL
   112 mEq/L
   147 mEq/L
   25.7 %
   6.5 K/uL
        [image002.jpg]
                            [**2134-12-5**]  08:34 AM
                            [**2134-12-5**]  10:50 AM
                            [**2134-12-5**]  04:43 PM
                            [**2134-12-5**]  10:02 PM
                             [**2134-12-6**]  04:44 AM
                             [**2134-12-6**]  05:11 AM
                             [**2134-12-6**]  11:44 AM
                             [**2134-12-6**]  12:00 PM
                             [**2134-12-6**]  06:36 PM
                             [**2134-12-7**]  04:54 AM
   WBC
   6.9
   6.2
   6.5
   Hct
   27.2
   25.0
   25.7
   Plt
   177
   165
   152
   Cr
   0.9
   0.9
   0.7
   0.6
   TCO2
   34
   33
   32
   31
   28
   Glucose
   120
   97
   91
   101
   Other labs: PT / PTT / INR:15.4/53.7/1.4, Differential-Neuts:82.2 %,
   Lymph:9.4 %, Mono:5.5 %, Eos:2.6 %, Lactic Acid:0.5 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Impression: Mrs. [**Known lastname **] is a 69 year old female with grade III
   infiltrating ductal carcinoma of the right breast, hypertension and
   obstructive sleep apnea who presented to the emergency room with
   nausea, vomiting and abdominal pain now transferred to the [**Hospital Unit Name 10**] for
   hypoxic respiratory failure in the setting of aspiration and witnessed
   aspiration during intubation. S/p Extubation [**12-6**].
   .
   Hypoxic Respiratory Failure/Aspiration: Patient with respiratory
   failure in the setting of nausea, vomiting, leukocytosis and likely
   aspiration pneumonia on CXR.  Hypoxia despite non-rebreather on the
   floor.  Patient required intubation and ventilation x 1day and is now
   extubated.  Etiology of respiratory failure is unclear and likely
   multifactorial realted to her pneumonia, aspiration and possibly mucous
   plugging acutely.  Patient has known large hiatal hernia that may be
   her etiology of aspiration. Was advanced to clears last night, but had
   witnessed aspiration event and was thus made npo again.
   - wean O2 as tolerated
   - levofloxacin and flagyl for aspiration pneumonia
   - NPO
   - S and S eval requested
   .
   Hypotension: Transient in the setting of initiating sedation with
   likely vasodilatory effects.  Now improved with normal saline and
   transient peripheral dopamine.  Was on levophed which was turned off
   0300 [**12-6**]
   - NS fluid boluses for UOP < 50 cc/hr, MAP < 65
   - holding all blood antihypertensives
   .
   Nausea/Vomiting: Patient with known large hiatal hernia.  Unclear
   etiology of these symptoms.  Differential diagnosis includes viral
   syndrome, gastric outlet obstruction, or nausea related to primary
   pulmonary process.  KUB this morning with no evidence of free air,
   dilated bowel loops.  Contrast seen in the colon from prior CT scan.
   - OGT in place to suction
   - Once extubated will hold off on on NG tube unless clinically
   indicated
   - consider gastroenterology consult
   .
   Metabolic Alkalosis:  Likely secondary to vomiting and subsequent
   dehydration.
   - as above, received 2 L NS on arrival
   .
   Leukocytosis:  Likely secondary to aspiration pneumonia vs.
   pneumonitis. Blood cultures from admission negative.
   - repeat blood, urine and sputum cultures
   - levofloxacin and flagyl for aspiration pneumonia
   .
   Hypokalemia:  Likely secondary to vomiting but per notes concern that
   may be chronic.
   - IV repletion throughout the day
   .
   Hypertension: Transient hypotensive in the setting of intubation.
   - holding all antihypertensives
   .
   Coronary Artery Disease: No echocardiograms in our system.  Has q waves
   inferiorly.  No symptoms of angina, PND or orthopnea on admission H+P.
   Cardiac enzymes negative.
   - holding aspirin given guaiac positive emesis and NPO
   - holding statin
   .
   Breast cancer: Currently in remission.
   - holding arimidex while NPO
   .
   Depression:
   - holding sertraline, wellbutrin and ativan while ventilated
   .
   Hypothyroidism:
   - IV levothyroxine
   .
   FEN: NPO, NGT, IVF D5
 ns, monitor electrolytes closely, NS for UOP <
   50, MAP < 65
   .
   Access:  LEFT subclavian line, 1 18 g, 2 20 g peripherals
   .
   Prophylaxis: Heparin SC, IV PPI
   .
   Code: Full (discussed with patient, HCP)
   .
   Dispo: ICU care for now
   .
   Communication: w/ patient and daughter [**Name (NI) 155**] [**Name (NI) **] (HCP)
   ICU [**Name (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-12-5**] 06:52 AM
   Multi Lumen - [**2134-12-5**] 11:30 AM
   Arterial Line - [**2134-12-5**] 12:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-12-07 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight,
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2134-12-6**] 12:17 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-12-6**] 11:43 AM
   Metronidazole - [**2134-12-7**] 08:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-12-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-12-7**] 08:20 AM
   Other medications:
   Protonix, compazine, zofran, heparin, flagyl, levofloxacin - see med
   list for full list
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-7**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 78 (71 - 88) bpm
   BP: 159/77(107) {113/62(83) - 163/81(110)} mmHg
   RR: 24 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 56.5 kg
             Total In:
                                                                  3,572 mL
                                                                    408 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  3,512 mL
                                                                    408 mL
   Blood products:
   Total out:
                                                                  1,173 mL
                                                                    950 mL
   Urine:
                                                                    873 mL
                                                                    950 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,399 mL
                                                                   -542 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.38/46/81.[**Numeric Identifier 8**]/28/0
   PaO2 / FiO2: 164
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   152 K/uL
   101 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   12 mg/dL
   112 mEq/L
   147 mEq/L
   25.7 %
   6.5 K/uL
        [image002.jpg]
                            [**2134-12-5**]  08:34 AM
                            [**2134-12-5**]  10:50 AM
                            [**2134-12-5**]  04:43 PM
                            [**2134-12-5**]  10:02 PM
                             [**2134-12-6**]  04:44 AM
                             [**2134-12-6**]  05:11 AM
                             [**2134-12-6**]  11:44 AM
                             [**2134-12-6**]  12:00 PM
                             [**2134-12-6**]  06:36 PM
                             [**2134-12-7**]  04:54 AM
   WBC
   6.9
   6.2
   6.5
   Hct
   27.2
   25.0
   25.7
   Plt
   177
   165
   152
   Cr
   0.9
   0.9
   0.7
   0.6
   TCO2
   34
   33
   32
   31
   28
   Glucose
   120
   97
   91
   101
   Other labs: PT / PTT / INR:15.4/53.7/1.4, Differential-Neuts:82.2 %,
   Lymph:9.4 %, Mono:5.5 %, Eos:2.6 %, Lactic Acid:0.5 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 NAUSEA / VOMITING
   A:
   1) Respiratory Failure:
   Plan:
   - Keep patient NPO as clear relation between eating and aspiration.
   - Continue antibiotics
   - Incentive Spirometry
   2) Vomiting:
   Plan:
   3) Hypertension
   Plan:
   4) Full Code
   5) Fever:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-12-5**] 06:52 AM
   Multi Lumen - [**2134-12-5**] 11:30 AM
   Arterial Line - [**2134-12-5**] 12:54 PM
   22 Gauge - [**2134-12-7**] 09:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2134-12-08 06:57:00 Physician Resident Progress Note
Chief Complaint: n/v
   24 Hour Events:
   - Advancing diet clears as tolerated
   - chose to wait until pt goes to floor to start home antihypertensives
   and home PO meds
   - Per GI, ?EGD, and upper endoscopy tomorrow, 45 degree bed elevation
   and do not allow to lay flat, Aspiration precautions, Pantoprazole.
   -central line and Foley out
   -Urine culture PND
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-12-7**] 12:10 PM
   Metronidazole - [**2134-12-8**] 01:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-12-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-12-8**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-8**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 70 (67 - 90) bpm
   BP: 132/69(85) {123/63(81) - 143/72(91)} mmHg
   RR: 25 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 56.5 kg
             Total In:
                                                                  1,153 mL
                                                                    140 mL
   PO:
             TF:
   IVF:
                                                                  1,153 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    300 mL
   Urine:
                                                                  1,705 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///31/
   Physical Examination
   General: a and o x3, nad
   HEENT: PERRL, sclera anicteric, MM moist
   Neck: no bruits
   CV: RRR, s1 + s2, no murmurs, rubs, gallops
   Resp: Clear to auscultation anteriorly and laterally
   GI: soft, non-tender, non-distended, hypoactive bowel sounds, no
   organomegaly appreciated
   GU: foley draining clear yellow urine
   Ext: WWP, 2+ pulses, no clubbing, cyanosis; LEFT hand edematous to
   wrist
   Labs / Radiology
   187 K/uL
   9.2 g/dL
   97 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   10 mg/dL
   109 mEq/L
   146 mEq/L
   28.2 %
   8.0 K/uL
        [image002.jpg]
                            [**2134-12-5**]  04:43 PM
                            [**2134-12-5**]  10:02 PM
                             [**2134-12-6**]  04:44 AM
                             [**2134-12-6**]  05:11 AM
                             [**2134-12-6**]  11:44 AM
                             [**2134-12-6**]  12:00 PM
                             [**2134-12-6**]  06:36 PM
                             [**2134-12-7**]  04:54 AM
                             [**2134-12-7**]  01:59 PM
                             [**2134-12-8**]  03:27 AM
   WBC
   6.9
   6.2
   6.5
   8.0
   Hct
   27.2
   25.0
   25.7
   28.2
   Plt
   177
   165
   152
   187
   Cr
   0.9
   0.9
   0.7
   0.6
   0.5
   0.5
   TCO2
   32
   31
   28
   Glucose
   120
   97
   91
   101
   101
   97
   Other labs: PT / PTT / INR:15.8/53.4/1.4, Differential-Neuts:82.2 %,
   Lymph:9.4 %, Mono:5.5 %, Eos:2.6 %, Lactic Acid:0.5 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Impression: Mrs. [**Known lastname **] is a 69 year old female with grade III
   infiltrating ductal carcinoma of the right breast, hypertension and
   obstructive sleep apnea who presented to the emergency room with
   nausea, vomiting and abdominal pain now transferred to the [**Hospital Unit Name 10**] for
   hypoxic respiratory failure in the setting of aspiration and witnessed
   aspiration during intubation. S/p Extubation [**12-6**].
   .
   Hypoxic Respiratory Failure/Aspiration: Patient with respiratory
   failure in the setting of nausea, vomiting, leukocytosis and likely
   aspiration pneumonia on CXR.  Hypoxia despite non-rebreather on the
   floor.  Patient required intubation and ventilation x 1day and is now
   extubated.  Etiology of respiratory failure is unclear and likely
   multifactorial realted to her pneumonia, aspiration and possibly mucous
   plugging acutely.  Patient has known large hiatal hernia that may be
   her etiology of aspiration. Was advanced to clears last night, but had
   witnessed aspiration event and was thus made npo again.
   - wean O2 as tolerated
   - levofloxacin and flagyl for aspiration pneumonia (day 3)
   - Continue nectar thick liquids
   - S and S eval
   .
   Hypotension: Transient in the setting of initiating sedation with
   likely vasodilatory effects.  Now improved with normal saline and
   transient peripheral dopamine.  Was on levophed which was turned off
   0300 [**12-6**]
   - NS fluid boluses for UOP < 50 cc/hr, MAP < 65
   - holding all blood antihypertensives
   .
   Nausea/Vomiting: Patient with known large hiatal hernia.  Unclear
   etiology of these symptoms.  Differential diagnosis includes viral
   syndrome, gastric outlet obstruction, or nausea related to primary
   pulmonary process.  KUB with no evidence of free air, dilated bowel
   loops.  Contrast seen in the colon from prior CT scan.
   - gastroenterology appreciated
 will seek to obtain EGD and will
   continue Protonix IV bid
   - antiemetics to prn
   .
   Metabolic Alkalosis:  Likely secondary to vomiting and subsequent
   dehydration.
   - as above, received 2 L NS on arrival
   .
   Leukocytosis:  Likely secondary to aspiration pneumonia vs.
   pneumonitis. Blood cultures from admission negative.
   - repeat blood, urine and sputum cultures
   - levofloxacin and flagyl for aspiration pneumonia
   .
   Hypokalemia:  Likely secondary to vomiting but per notes concern that
   may be chronic.
   - IV repletion throughout the day
   .
   Coronary Artery Disease: No echocardiograms in our system.  Has q waves
   inferiorly.  No symptoms of angina, PND or orthopnea on admission H+P.
   Cardiac enzymes negative.
   - holding aspirin given guaiac positive emesis and NPO
   - holding statin
   .
   Breast cancer: Currently in remission.
   - holding arimidex while NPO
   .
   Depression:
   - holding sertraline, wellbutrin and ativan while ventilated
   .
   Hypothyroidism:
   - IV levothyroxine
   .
   Swollen Left hand
 Improved, will continue to monitor
   .
   FEN: clear liquids, NGT, IVF D5
 ns, monitor electrolytes closely, NS
   for UOP < 50, MAP < 65
   .
   Access:  LEFT subclavian line, 1 18 g, 2 20 g peripherals
   .
   Prophylaxis: Heparin SC, IV PPI
   .
   Code: Full (discussed with patient, HCP)
   .
   Dispo: Consider transfer to the floor today
   .
   Communication: w/ patient and daughter [**Name (NI) 155**] [**Name (NI) **] (HCP)
   ICU [**Name (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-12-5**] 06:52 AM
   22 Gauge - [**2134-12-7**] 09:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-12-08 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight, no new problems and respiratory status stable.
   24 Hour Events:
 URINE CULTURE - At [**2134-12-7**] 11:43 AM
 ARTERIAL LINE - STOP [**2134-12-7**] 02:32 PM
 MULTI LUMEN - STOP [**2134-12-7**] 10:01 PM
   slight hematoma at insertion site...outlined dsg in pen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2134-12-7**] 12:10 PM
   Metronidazole - [**2134-12-8**] 07:56 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-12-8**] 07:56 AM
   Pantoprazole (Protonix) - [**2134-12-8**] 07:58 AM
   Other medications:
   Med list reviewed- See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-12-8**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 76 (67 - 90) bpm
   BP: 146/68(87) {123/63(81) - 153/86(102)} mmHg
   RR: 23 (18 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 56.5 kg
             Total In:
                                                                  1,153 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                  1,153 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                  1,050 mL
   Urine:
                                                                  1,705 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   187 K/uL
   97 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   10 mg/dL
   109 mEq/L
   146 mEq/L
   28.2 %
   8.0 K/uL
        [image002.jpg]
                            [**2134-12-5**]  04:43 PM
                            [**2134-12-5**]  10:02 PM
                             [**2134-12-6**]  04:44 AM
                             [**2134-12-6**]  05:11 AM
                             [**2134-12-6**]  11:44 AM
                             [**2134-12-6**]  12:00 PM
                             [**2134-12-6**]  06:36 PM
                             [**2134-12-7**]  04:54 AM
                             [**2134-12-7**]  01:59 PM
                             [**2134-12-8**]  03:27 AM
   WBC
   6.9
   6.2
   6.5
   8.0
   Hct
   27.2
   25.0
   25.7
   28.2
   Plt
   177
   165
   152
   187
   Cr
   0.9
   0.9
   0.7
   0.6
   0.5
   0.5
   TCO2
   32
   31
   28
   Glucose
   120
   97
   91
   101
   101
   97
   Other labs: PT / PTT / INR:15.8/53.4/1.4, Differential-Neuts:82.2 %,
   Lymph:9.4 %, Mono:5.5 %, Eos:2.6 %, Lactic Acid:0.5 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ELECTROLYTE & FLUID DISORDER, OTHER
 NAUSEA / VOMITING
   1)  Respiratory Failure: improved
   - Continue aspiration percautions
   - complete 7 day course of levofloxacin/flagyl
   2) Hiatal Hernia:
   3) Hypotension: resolved
   4) CAD: asa, statin
   5) Disposition: To [**Hospital1 192**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-12-5**] 06:52 AM
   22 Gauge - [**2134-12-7**] 09:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: